US07947255B2
4-(4-(dimethylamino)phenyl)-1-ethylpyridinium iodide (IDT321) (IV).
N,N-dimethyl-4-(pyridine-4-yl) aniline (0.1 g, 5.5 mmols) was dissolved in acetonitrile (50 ml) and ethyl iodide (4 ml) was added. The mixture was heated at reflux for 4 hours then cooled to ambient temperature. Diethylether (50 ml) was added IDT321 (0.035 g, 0.9 mmols) crystallized upon standing and was removed via filtration. 1H NMR (DMSO-d6) δ 1.50 (t, 3H), 3.40 (s, 6H), 4.50 (q, 2H), 6.95 (d, 2H), 8.05 (d, 2H), 8.35 (d, 2H), 8.90 (d, 2H).

reactant | N,N-dimethyl-4-(pyridine-4-yl) aniline | 5.5 mmols, 0.1 g | CN(C1=CC=C(C=C1)C1=CC=NC=C1)C | C13H14N2
reactant | ethyl iodide | 4 ml | C(C)I | C2H5I
reactant | Diethylether | 50 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(4-(dimethylamino)phenyl)-1-ethylpyridinium iodide | [I-].CN(C1=CC=C(C=C1)C1=CC=[N+](C=C1)CC)C | InChI=1S/C15H19N2.HI/c1-4-17-11-9-14(10-12-17)13-5-7-15(8-6-13)16(2)3;/h5-12H,4H2,1-3H3;1H/q+1;/p-1
